US04214004
To a stirred mixture of sodium borohydride (2.0 g, 0.05 mole) in 400 ml of ethanol was added in one portion 5-(2-fluorophenyl)-3-methyl-2-cyclohexen-1-one (42.3 g, 0.21 mole) in 50 ml of ethanol. The reaction mixture was heated under reflux for 16 hours. An additional 2.0 g of sodium borohydride was then added to the reaction mixture and heating under reflux continued for an additional 2 hours. Again, 2.0 g of sodium borohydride was added to the reaction mixture and heating under reflux continued for a 2 hour period. The reaction mixture was stirred with ice, then acidified with aqueous 10% hydrochloric acid. The mixture was extracted with diethyl ether, and the ether extract was washed with an aqueous solution saturated with sodium bicarbonate. The organic layer was dried with sodium sulfate and filtered. The filtrate was evaporated under reduced pressure to give 5-(2-fluorophenyl)-3-methyl-2-cyclohexen-1-ol (41.2 g) as an oil.

reactant | sodium borohydride | 0.05 mole, 2.0 g | [BH4-].[Na+]
reactant | 5-(2-fluorophenyl)-3-methyl-2-cyclohexen-1-one | 0.21 mole, 42.3 g | FC1=C(C=CC=C1)C1CC(=CC(C1)=O)C | C13H13FO
reactant | sodium borohydride | 2.0 g | [BH4-].[Na+]
reactant | sodium borohydride | 2.0 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 400 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(2-fluorophenyl)-3-methyl-2-cyclohexen-1-ol | 41.2 g | FC1=C(C=CC=C1)C1CC(=CC(C1)O)C | C13H15FO
